US07018988B2
(2S)-1-({1-[4-(dimethylamino)butanoyl]-4-methylene-2-pyrrolidinyl}carbonyl)-3-azetidinol
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 4-(dimethylamino)butanoyl chloride, and 3-azetidinol the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=296.4.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 4-(dimethylamino)butanoyl chloride | CN(CCCC(=O)Cl)C | C6H12ClNO
reactant | 3-azetidinol | N1CC(C1)O | C3H7NO
product | (2S)-1-({1-[4-(dimethylamino)butanoyl]-4-methylene-2-pyrrolidinyl}carbonyl)-3-azetidinol | CN(CCCC(=O)N1[C@@H](CC(C1)=C)C(=O)N1CC(C1)O)C | C15H25N3O3
